US07282588B2
Preparation of N-Cyclohexyl-N′-{4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}urea
Following the procedure described in Example 1 with 4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]aniline and cyclohexyl isocyanate provided the title compound. ESMS [M+H]+: 429.2

reactant | 4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]aniline | C(C)N1N=C(C(=C1)C1=C2C(=NC=C1)NC=C2)C2=CC=C(N)C=C2 | C18H17N5
reactant | cyclohexyl isocyanate | C1(CCCCC1)N=C=O | C7H11NO
product | N-Cyclohexyl-N′-{4-[1-ethyl-4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}urea | C1(CCCCC1)NC(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC=C2)CC | C25H28N6O
